US06833378B2
2-(4-Chloro-2,6-dimethyl-phenoxy)-4-(1-formyl-propylamino)-6-methyl-nicotinamide
A mixture of 2-(4-chloro-2,6-dimethyl-phenoxy)-4-(1-hydroxymethyl-propylamino)-6-methyl-nicotinamide and Dess-Martin reagent in methylene chloride/DMSO was stirred at rt for 4 hr. The title compound was isolated after standard work-up and silica gel Biotage purification. 1H NMR(CDCl3) d 9.52(s,1H), 8.00(brs,1H), 7.06(s,22H), 5.99(s,1H), 5.8(brs,1H), 3.85(m,1H), 2.09(s,3H), 2.08(s,6H), 1.8-2.2(m,2H), 1.08(t,3H) ppm.

reactant | 2-(4-chloro-2,6-dimethyl-phenoxy)-4-(1-hydroxymethyl-propylamino)-6-methyl-nicotinamide | ClC1=CC(=C(OC2=C(C(=O)N)C(=CC(=N2)C)NC(CC)CO)C(=C1)C)C | C19H24ClN3O3
reactant | Dess-Martin reagent | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | methylene chloride DMSO | C(Cl)Cl.CS(=O)C
product | 2-(4-Chloro-2,6-dimethyl-phenoxy)-4-(1-formyl-propylamino)-6-methyl-nicotinamide | ClC1=CC(=C(OC2=C(C(=O)N)C(=CC(=N2)C)NC(CC)C=O)C(=C1)C)C | C19H22ClN3O3
